Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Memory loss
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ is a ___ year-old right-handed male with h/o HTN,
CAD s/p ___ s/p stenting, macular degeneration, and asthma who
presented as transfer from ___ for episode of
memory loss. 

History obtained from patient and family who are at bedside. 
This
morning he says he was in usual state of health without any
complaints. He woke up and took a shower to go to a doctor's
appointment today. He remembers starting to brush his teeth and
then say things get "fuzzy". He says he remembers going to the
hospital and getting there as well. His wife says that he called
her up to the bathroom around 08___ because he was not feeling
right. He asked her what day it was and if he had a doctor's
appointment. She told him it was ___ and that he did have a
Dermatology appointment. He then repeated the questions again
multiple times, and would say "is it ___ over and over
again. Due to this his wife took him to the hospital. 

They said that at the OSH he was evaluated and couldn't remember
the name of the President or calculate # of quarters in an 
amount
of money. This was very worrisome to him because he is very good
at math and did this for a living previously.  Per outside
hospital report he was unable to "remember the day of the week,
the year, that it is Christmas, who the president is, and other
[questions] he should know the answer to easily". Over time he
slow improved. Per wife he was "back to himself" after ~2 hrs.
Currently she thinks he is completely back to baseline. 

In addition to memory problems patient noticed a headache that
was new for him while driving to the hospital. He also said he
felt a little lightheaded. Headache is still present but mild.
Described as dull, located on the top of his head and the back 
of
head. Not associated with dizziness, photophobia, phonophobia,
changes in vision or other symptoms. 

His wife denies any changes in his language during this time, no
slurring words, no facial droop, weakness or other changes. 

 
Past Medical History:
Macular degeneration
Hypertension
Coronary artery disease status post MI x2 status post stenting
and angioplasty
Asthma
gallbladder removal
Shoulder surgery 
right knee surgery
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:

Vitals: Temperature 97.9, heart rate 63, blood pressure 141/89,
respiratory rate 16, 97% on room air

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes, gets third object with clues. Able to do serial 7s up 
to
___ without difficulty, The pt had good knowledge of current
events. There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: Left pupil slightly larger than right by about 0.5 mm, both
are briskly reactive to light, VFF to confrontation.  Unable to
visualize optic disc
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub, reduced on the right
chronically
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline with good side-to-side movement 


-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl  FE    IP   Quad  Ham TA   Gastroc 
L  5    ___   5    5    5     5    5   5      5     
R  5    ___   5    5    4+     5    5   5      5     

-Sensory: No deficits to light touch, mildly decreased pinprick
on the right lateral foot compared to the left, mild reduction 
in
proprioception in bilateral lower extremities, very mild early
extinction to vibration in toes bilaterally, No extinction to
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   2
R  3  3    3    3   2
Plantar response was flexor bilaterally.  No clonus, positive
___ bilaterally, positive cross adductors bilaterally

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.  Finger tapping fast and
smooth bilaterally

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Romberg negative

===
DISCHARGE PHYSICAL EXAM:

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple
Pulmonary: breathing non labored on room air 
Cardiac: WWP
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. MOYB 
intact. Language is fluent with intact repetition and 
comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II: Left pupil slightly larger than right by about 0.5 mm, both
are briskly reactive to light, VFF to confrontation.  Unable to
visualize optic disc
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub, reduced on the right
chronically
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline with good side-to-side movement 


-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl  FE    IP   Quad  Ham TA   Gastroc 
L  5    ___   5    5    5     5    5   5      5     
R  5    ___   5    5    4+     5    5   5      5  

R IP exam limited by pain   

-Sensory: Intact to light touch throughout

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   2
R  3  3    3    3   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Romberg negative
 
Pertinent Results:
___ 05:40AM BLOOD WBC-6.9 RBC-4.27* Hgb-13.4* Hct-41.1 
MCV-96 MCH-31.4 MCHC-32.6 RDW-12.8 RDWSD-45.2 Plt ___
___ 05:40AM BLOOD ___ PTT-26.7 ___
___ 05:40AM BLOOD Glucose-92 UreaN-15 Creat-0.9 Na-139 
K-3.8 Cl-96 HCO3-26 AnGap-17
___ 05:40AM BLOOD ALT-20 AST-21 AlkPhos-47 TotBili-1.0
___ 05:40AM BLOOD Calcium-9.1 Phos-4.3 Mg-1.8 Cholest-146
___ 05:40AM BLOOD %HbA1c-5.8 eAG-120
___ 05:40AM BLOOD Triglyc-87 HDL-64 CHOL/HD-2.3 LDLcalc-65
___ 05:40AM BLOOD TSH-2.8
___ 04:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:15PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-7.5 
Leuks-TR*
___ 05:15PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG fentnyl-NEG

MRI brain w/o contrast:

IMPRESSION:
 
 
1. No evidence of mass, hemorrhage or infarction.
 
Brief Hospital Course:
___ is a ___ year-old right-handed male with h/o HTN, 
CAD s/p ___ s/p stenting, macular degeneration, and asthma who 
presented as transfer from ___ for episode of 
memory loss.

#TRANSIENT GLOBAL AMNESIA: The patient's exam was at baseline 
with only mild deficits in delayed recall upon presentation to 
___. MRI brain did not show any evidence of hemorrhage, mass, 
or infarct. Per the history obtained from family at bedside, the 
episode was not concerning for seizures, given no loss of 
consciousness, generalized convulsions, incontinence, or 
post-ictal confusion/weakness. Therefore, the symptoms were 
believed to be due to transient global amnesia. The patient's 
examination, including memory testing and mental status 
examination, were unremarkable at time of discharge.

===
Transitional Issues: None

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 10 mg PO QPM 
2. amLODIPine 5 mg PO DAILY 
3. Pantoprazole 40 mg PO Q24H 
4. Aspirin 81 mg PO DAILY 
5. Losartan Potassium 100 mg PO DAILY 
6. Hydrochlorothiazide 50 mg PO DAILY 
7. Metoprolol Succinate XL 50 mg PO DAILY 
8. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
9. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN cough, wheezing 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Hydrochlorothiazide 50 mg PO DAILY  
4.  Losartan Potassium 100 mg PO DAILY  
5.  Metoprolol Succinate XL 50 mg PO DAILY  
6.  Pantoprazole 40 mg PO Q24H  
7.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN cough, wheezing  
8.  Simvastatin 10 mg PO QPM  
9.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TRANSIENT GLOBAL AMNESIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ due to symptoms of memory loss and 
anxiety. Initially, there was a concern for stroke, which is 
when a blood vessel supplying different parts of your brain is 
blocked and cause various neurological symptoms. However, your 
symptoms mostly resolved by the time you presented to us. The 
description of your symptoms, as witnessed by bystanders, did 
not seem suspicious for seizures. 

The MRI of your brain did not show any evidence of stroke or 
other significant abnormalities.

Therefore, we believe that your symptoms were due to TRANSIENT 
GLOBAL AMNESIA, a condition that causes brief, self-resolving 
impairment in memory. 

We did not make any changes to your medications.

Please take your home medications as they have been prescribed 
previously.

You will be contacted with a follow-up appointment within the 
next ___ business days. If you do not hear from us, please call 
___ to schedule an appointment for the next ___ months.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___